US06924276B2
Step 1: 5-Methyl-4-nitro-thiophene-2-carboxylic Acid (1,3-benzodioxol-5-ylmethyl)-amide
The title compound was prepared according to the procedure described for Example 2 using carbonyldiimidazole (0.7 g, 4.3 mmol), 5-methyl-4-nitro-thiophene-2-carboxylic acid (0.6 g, 3.2 mmol), and piperonyl amine (0.5 g, 3.3 mmol). Acidification of the aqueous workup mixture with dilute hydrochloric acid prior to filtration afforded 1 g of 5-methyl-4-nitro-thiophene-2-carboxylic acid (1,3-benzodioxol-5-ylmethyl)-amide. A sample was dissolved in ethyl acetate and filtered through a short column of silica gel to give 5-methyl-4-nitro-thiophene-2-carboxylic acid (1,3-benzodioxol-5-ylmethyl)-amide; mp 181-183° C.

reactant | carbonyldiimidazole | 4.3 mmol, 0.7 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 5-methyl-4-nitro-thiophene-2-carboxylic acid | 3.2 mmol, 0.6 g | CC1=C(C=C(S1)C(=O)O)[N+](=O)[O-] | C6H5NO4S
reactant | piperonyl amine | 3.3 mmol, 0.5 g | C(C1=CC=2OCOC2C=C1)N | C8H9NO2
product | 5-methyl-4-nitro-thiophene-2-carboxylic acid (1,3-benzodioxol-5-ylmethyl)-amide | 1 g | O1COC2=C1C=CC(=C2)CNC(=O)C=2SC(=C(C2)[N+](=O)[O-])C | C14H12N2O5S
